US04187310
1-(4-Chlorobenzyl)-1,2-dihydro-2-oxoquinol-4-ylacetic acid (33 g.) was added to concentrated sulphuric acid (210 ml.) at 0° C. The mixture was stirred at 0° C. and potassium nitrate (11 g.) was added in small portions over 8 minutes. The mixture was then stirred at 0° C. for a further 10 minutes and then for 2 hours at room temperature. The mixture was poured into an ice-water mixture (2.5 l.), and the precipitated solid was filtered off. The dried solid was crystallised from 3/1 v/v dimethylformamide-ethanol to give 1-(4-chlorobenzyl)-1,2-dihydro-6-nitro-2-oxoquinol-4-ylacetic acid, m.p. 217°-9° C., in 85% yield.

reactant | 1-(4-Chlorobenzyl)-1,2-dihydro-2-oxoquinol-4-ylacetic acid | 33 g | ClC1=CC=C(CN2C(C=C(C3=CC=CC=C23)CC(=O)O)=O)C=C1 | C18H14ClNO3
reactant | potassium nitrate | 11 g | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | 210 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(4-chlorobenzyl)-1,2-dihydro-6-nitro-2-oxoquinol-4-ylacetic acid | 85% yield | ClC1=CC=C(CN2C(C=C(C3=CC(=CC=C23)[N+](=O)[O-])CC(=O)O)=O)C=C1 | C18H13ClN2O5
